US07915300B2
A three necked flask was charged with methyl 4-bromo-3-methylbenzoate (2.18 mmol), bis(pinacolato)diboron (2.29 mmol), palladium acetate (0.065 mmol), potassium acetate (6.54 mmol) and DMF (10 ml). The solution was degassed by bubbling through N2 gas for 30 mins and was then heated to 80° C. under N2 for 3 h. Reaction was then cooled to room temperature and 4-(5-Bromo-furan-2-ylmethyl)-morpholine (2.18 mmol), cesium carbonate (3.27 mmol) and Pd(PPh3)4 (0.065 mmol) added. The reaction was heated to 80° C. and stirred for a further 17 h. Mixture was then diluted with EtOAc and water and filtered through a celite pad to remove black particulates. The organic layer was separated, washed with brine and dried over Na2SO4 and concentrated in vacuo. Flash chromatography of the residue (silica, 10-99% EtOAc in hexane) gave 3-Methyl-4-(5-morpholin-4-ylmethyl-furan-2-yl)-benzoic acid methyl ester as a grey powdery solid: m/z in MS ES+=316 [M+H]+, 0.51 mmol, 23%.

reactant | methyl 4-bromo-3-methylbenzoate | 2.18 mmol | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | bis(pinacolato)diboron | 2.29 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.54 mmol | C(C)(=O)[O-].[K+]
reactant | 4-(5-Bromo-furan-2-ylmethyl)-morpholine | 2.18 mmol | BrC1=CC=C(O1)CN1CCOCC1 | C9H12BrNO2
reactant | cesium carbonate | 3.27 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | palladium acetate | 0.065 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Pd(PPh3)4 | 0.065 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-4-(5-morpholin-4-ylmethyl-furan-2-yl)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C=1OC(=CC1)CN1CCOCC1)C)=O | C18H21NO4
